US04656126
450 ml of a dimethylformamide solution containing 100 g (0.58 mole) of 2-hydroxy-1-naphthaldehyde and 96.3 g (0.7 mole) of anhydrous potassium carbonate was stirred with heating at 60° C. To the solution was added dropwise 88.3 g (0.7 mole) of benzyl chloride. After the completion of the dropwise addition, the mixture was stirred at 60° C. for 2 hours. Then 870 ml of ethyl acetate heated at 60° C. and 1.2 liters of warm water at 60° C. were added to the mixture and it was extracted at 60° C. and separated. The organic layer was concentrated under reduced pressure to about 550 ml. 440 ml of methanol was added to the concentrate, and the solution was cooled to 5° C. to crystallize. The precipitated crystals were collected by filtration, and washed with methanol to obtain 131 g (0.5 mole) of 2-benzyloxy-1-naphthaldehyde.

reactant | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
reactant | 2-hydroxy-1-naphthaldehyde | 0.58 mole, 100 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | potassium carbonate | 0.7 mole, 96.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 0.7 mole, 88.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 1.2 liters | O | H2O
solvent | ethyl acetate | 870 ml | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxy-1-naphthaldehyde | 0.5 mole, 131 g | C(C1=CC=CC=C1)OC1=C(C2=CC=CC=C2C=C1)C=O | C18H14O2
